US07994179B2
Intermediate 64-7: Methyl 2-(2-(tert-butoxycarbonylamino)acetamido)-3-hydroxybutanoate
HATU (46.9 g, 123.30 mmol) was added to a stirred solution of 2-(tert-butoxycarbonylamino)acetic acid (18 g, 102.75 mmol) DMA (230 mL) at ambient temperature. After 5 minutes a solution of (2S,3R)-methyl 2-amino-3-hydroxybutanoate hydrochloride (17.43 g, 102.75 mmol) and DIPEA (71.8 mL, 411.00 mmol) in DMA (230 mL) was added and the resulting solution was stirred at ambient temperature for 20 hours, The reaction mixture was diluted with EtOAc (300 mL), and washed with 1N citric acid (300 mL), salt was added to the aqueous layer which was re extracted with EtOAc (4×400 mL). The organic extracts were combined, washed with saturated NaHCO3 (200 mL), dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 50 to 100% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford the title compound (12.97 g, 43.5%) as a yellow glass which formed a solid on standing.

reactant | HATU | 123.30 mmol, 46.9 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(tert-butoxycarbonylamino)acetic acid | 102.75 mmol, 230 mL, 18 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | (2S,3R)-methyl 2-amino-3-hydroxybutanoate hydrochloride | 102.75 mmol, 17.43 g | Cl.N[C@H](C(=O)OC)[C@@H](C)O
reactant | DIPEA | 411.00 mmol, 71.8 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 230 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | Methyl 2-(2-(tert-butoxycarbonylamino)acetamido)-3-hydroxybutanoate | 12.97 g, 43.5% | C(C)(C)(C)OC(=O)NCC(=O)NC(C(=O)OC)C(C)O | C12H22N2O6
